US07435837B2
Treatment of (±)-(7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.5 g, 3.32 mmol) with 1-naphthaleneboronic acid (0.86 g, 4.97 mmol), tetrakis(triphenylphosphine)palladium(0) (0.38 g, 0.33 mmol), and potassium phosphate (1.41 g, 6.63 mmol) generally according to the procedure described for Intermediate 50 provided (±)-[7-(1-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.10 g, 1.49 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(1-naphthyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.03 g, 10 wt. %) generally according to the procedure described for Example 1 gave 0.10 g (10%) of (±)-1-[7-(1-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 120-124° C.; Anal. calcd. for C19H17NOHCl.0.5H2O: C, 71.13; H, 5.97; N, 4.37. Found: C, 70.93; H, 5.74; N, 4.58.

reactant | (±)-(7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.32 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2OS(=O)(=O)C(F)(F)F | C17H15F3O7S2
reactant | 1-naphthaleneboronic acid | 4.97 mmol, 0.86 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium phosphate | 6.63 mmol, 1.41 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-[7-(1-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=CC1=CC=CC=C21 | C26H22O4S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | sodium azide | 1.49 mmol, 0.10 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(1-naphthyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC=CC1=CC=CC=C21 | C19H15N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.03 g | [Pd] | Pd
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-1-[7-(1-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.10 g, 10% | C1(=CC=CC2=CC=CC=C12)C1=CC=CC=2CC(OC21)CN | C19H17NO
